US04582838
A solution of tetrahydro-3,5-dioxo-1H-pyrrolo[1,2-c]imidazole-2(3H)-acetic acid benzyl ester (2.9 g, 0.01 mol) in tetrahydrofuran, 250 ml, is treated with H2 gas in the presence of a Pd/C catalyst. After H2 uptake is complete, the solution is filtered through filter aid and concentrated in vacuo to yield tetrahydro-3,5-dioxo-1H-pyrrolo[1,2-c]-imidazole-2(3H)-acetic acid.

reactant | tetrahydro-3,5-dioxo-1H-pyrrolo[1,2-c]imidazole-2(3H)-acetic acid benzyl ester | 0.01 mol, 2.9 g | C(C1=CC=CC=C1)OC(CN1C(N2C(C1)CCC2=O)=O)=O | C15H16N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | tetrahydro-3,5-dioxo-1H-pyrrolo[1,2-c]-imidazole-2(3H)-acetic acid | O=C1N(CC2N1C(CC2)=O)CC(=O)O | C8H10N2O4
